US07053089B2
Thioacetic acid S-[2-(4-fluoro-phenyl)-ethyl]ester
A mixture of 2.4 g of 1-(2-chloro-ethyl)-4-fluoro-benzene, 30 mL of DMF and 25 mL of potassium thioacetate was stirred under nitrogen for 24 h. The mixture was diluted with 200 mL of water and extracted with 3×50 mL of dichloromethane. The combined organic layers were dried over magnesium sulfate and concentrated under reduced pressure. Drying under vacuum gave an oil:

reactant | 1-(2-chloro-ethyl)-4-fluoro-benzene | 2.4 g | ClCCC1=CC=C(C=C1)F | C8H8ClF
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
reactant | potassium thioacetate | 25 mL | C(C)(=S)[O-].[K+]
solvent | water | 200 mL | O | H2O
product | Thioacetic acid S-[2-(4-fluoro-phenyl)-ethyl]ester | FC1=CC=C(C=C1)CCSC(C)=O | C10H11FOS
